US04999356
To a stirred solution of 75.0 g of 4-(trifluoromethyl)-phenylhydrazine in 500 ml of dry pyridine, cooled in an ice bath, was added dropwise, under nitrogen, 79.1 g of 2-fluorobenzoyl chloride. Upon completion of the addition, the ice bath was removed and the reaction mixture stirred at ambient temperature for 4 hours. The mixture was poured into water and a precipitate formed. Recrystallization of the precipitate from isopropyl alcohol-water, gave 108 g (84%) of 2-fluorobenzoic acid, 2-(4-(trifluoromethyl)phenyl)hydrazide as a solid. Subsequent recrystallization from isopropyl alcohol-water gave the analytical sample, mp 163°-165°.

reactant | 4-(trifluoromethyl)-phenylhydrazine | 75.0 g | FC(C1=CC=C(C=C1)NN)(F)F | C7H7F3N2
reactant | 2-fluorobenzoyl chloride | 79.1 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 2-fluorobenzoic acid, 2-(4-(trifluoromethyl)phenyl)hydrazide | 108 g, 84% | FC(C1=CC=C(C=C1)NNC(C1=C(C=CC=C1)F)=O)(F)F | C14H10F4N2O
